US08492414B2
3-(4-Methoxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester: (III-b)
To a solution of 5-(4-methoxyphenyl)-[1,3,4]oxathiazol-2-one (0.47 g, 2.24 mmol) in n-dodecane (0.70 ml) was added ethyl cyanoformate (0.90 ml, 8.10 mmol). The resulting reaction mixture was refluxed for 20 h at 150° C. After the completion of the reaction (TLC monitoring), added ice-cold water and extracted with ethyl acetate (3×50 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude residue washed with ether to get the desired product (0.24 g, 40%). MS ES+ (265.08).

reactant | 5-(4-methoxyphenyl)-[1,3,4]oxathiazol-2-one | 2.24 mmol, 0.47 g | COC1=CC=C(C=C1)C1=NSC(O1)=O | C9H7NO3S
reactant | ethyl cyanoformate | 8.10 mmol, 0.90 ml | C(#N)C(=O)OCC | C4H5NO2
solvent | n-dodecane | 0.70 ml | CCCCCCCCCCCC | C12H26
product | 3-(4-Methoxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester | 0.24 g, 40% | C(C)OC(=O)C1=NC(=NS1)C1=CC=C(C=C1)OC | C12H12N2O3S
